US08877783B2
d) N-Isopropyl-6-(3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 84f, 6-(3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (67 mg, 0.21 mmol) was converted, instead of [643-(2-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, using isopropylamine instead of 2,2,2-trifluoroethylamine, to the title compound (59 mg, 81%) which was obtained as an off white solid. MS: m/e=338.2 [M+H]+.

reactant | 6-(3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.21 mmol, 67 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=CC=CC=C1)=O | C17H14N2O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-Isopropyl-6-(3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 59 mg, 81% | C(C)(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=CC=CC=C1)=O | C19H19N3O3
